US05521179
2-(3-Benzyloxycarbonylamino-6-methyl-2-oxo-5-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
Using a similar procedure to that described in Example 1.e., 2-(3-benzyloxycarbonylamino-6-methyl-2-oxo-5-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide was converted into 2-(3-benzyloxycarbonylamino-6-methyl-2-oxo-5-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide; chromatography solvent: chloroform:methanol (40:1); TLC: Rf =O.14, chloroform:ethyl acetate (20:1); MS: m/z=546(M+1).

reactant | 2-(3-benzyloxycarbonylamino-6-methyl-2-oxo-5-phenyl-1,2-dihydro-1-pyridyl)-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=C(C1)C1=CC=CC=C1)C)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C34H44F3N3O5Si
reactant | 2-(3-benzyloxycarbonylamino-6-methyl-2-oxo-5-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-2-hydroxy-1-isopropylpropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=C(C1)C1=CC=CC=C1)C)CC(=O)NC(C(C(F)(F)F)O)C(C)C)=O | C28H30F3N3O5
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | chloroform ethyl acetate | C(Cl)(Cl)Cl.C(C)(=O)OCC
product | 2-(3-Benzyloxycarbonylamino-6-methyl-2-oxo-5-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=C(C1)C1=CC=CC=C1)C)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C28H28F3N3O5
